US05254676
5-(Methoxycarbonyl)pentyl β-D-galactopyranoside (1)
A solution of acetobromogalactose (38.4 g) in 200 mL dry dichloromethane was added over a period of 60 min to a vigorously stirred suspension containing 5-methoxycarbonylpentanol (30.0 g), anhydrous silver carbonate (31.7 g, Aldrich), 3 Å molecular sieves (30.0 g) and anhydrous calcium sulphate (20.0 g) in dry dichloromethane (350 mL). After 20 h, the solution was filtered over celite and the solution was evaporated to dryness. The syrup was dissolved in pyridine (75 mL) containing acetic anhydride (50 mL) and 4-N,N-dimethylaminopyridine (10 mg) and stirred at room temperature for 3 h. The reaction mixture was then poured over crushed ice (200 g) and the product was extracted with dichloromethane (2×200 mL). The combined dichloromethane layer was washed with ice cold 1M hydrochloric acid and this procedure was repeated till the aqueous layer was acidic. Finally, the dichloromethane layer was washed with saturated sodium bicarbonate solution, dried over anhydrous magnesium sulphate and evaporated. To the crude syrup, n-hexane was added (200 mL), shaken well and the hexane layer was decanted. This procedure was repeated thrice. Finally, the syrup was dissolved in anhydrous methanol (300 mL). 15 mL of 0.5M sodium methoxide solution was added and this mixture was stirred at room temperature for 3 h. The reaction mixture was neutralized with IR-120 H+ resin, filtered and evaporated to a dry residue to yield the titled compound (26.1 g). [α]D25 -3.8±2° (c 1.03, MeOH). 1H n.m.r.(CD3OD) ∂: 4.19 (d, J=7.3 Hz, H-1), 3.89 and 3.54 (m, 2 H, OCH2 -of aglycon), 3.82 (dd, J=1.0, 3.2 Hz, H-4), 3.76-3.68 (m, H-6a,b), 3.64 (s, COOCH3), 3.50-3.47 (m, H-2, H-5), 3.44 (dd, J=3.2, 9.5 Hz, H-3), 2.32 (t, J=7.3 Hz, CH2COO), 1.65 and 1.40 (6 H, hydrogens of pentyl group). 13C n.m.r. (CD3OD) ∂: 105.1, 76.8, 75.3, 72.8, 70.6, 70.6, 62.7, 52.0, 34.9, 30.5, 26.8, 25.9. Anal. Calcd for C13H24O8 :C, 50.6; H, 7.8. Found: C, 49.47; H, 7.78.

reactant | acetobromogalactose | 38.4 g | CC(=O)OCC1C(C(C(C(O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | 5-methoxycarbonylpentanol | 30.0 g | COC(=O)CCCCCO | C7H14O3
reactant | calcium sulphate | 20.0 g | S(=O)(=O)([O-])[O-].[Ca+2]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
catalyst | silver carbonate | 31.7 g | C([O-])([O-])=O.[Ag+2]
product | 5-(Methoxycarbonyl)pentyl β-D-galactopyranoside | 26.1 g | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CCCCCC(=O)OC | C13H24O8
